US05550251
A solution of 1,5-pentandiol (44 mmol) in THF (15 mL) is cooled to 0° C. and treated with sodium hydride (44 mmol) followed by tert-butyldimethylsilyl chloride (44 mmol). The reaction mixture is stirred at room temperature overnight. Concentration in vacuo and flash chromatography affords 5-trimethylsiloxy-1-pentanol. To a solution of 5-trimethylsiloxy-1-pentanol (11.6 mmol) in dry dichloromethane (50 mL) is added 2,6-di-tert-butyl-4methylpyridine (4.6 g, 22.2 mmol) and triflic anhydride (3.7 mL, 22.2 mmol) at 0° C. The reaction is stirred at room temperature for 20 min, poured into water, and extracted with dichloromethane. The combined extracts are dried over anhydrous sodium sulfate and concentrated in vacuo and to afford 5-trimethylsiloxy-1-pentyl triflate (45) which is used without further purification.

reactant | 1,5-pentandiol | 44 mmol | C(CCCCO)O | C5H12O2
reactant | sodium hydride | 44 mmol | [H-].[Na+]
reactant | tert-butyldimethylsilyl chloride | 44 mmol | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 5-trimethylsiloxy-1-pentanol | C[Si](OCCCCCO)(C)C | C8H20O2Si
